US08580832B2
D. 1-{5-[3-Methoxy-4-(2-trifluoromethyl-phenoxy)-benzylidene]-4-oxo-4,5-dihydro-thiazol-2-yl}-azetidine-3-carboxylic acid
was prepared from 5-[3-Methoxy-4-(2-trifluoromethyl-phenoxy)-benzylidene]-2-methylsulfanyl-thiazol-4-one and azetidine-3-carboxylic acid and substituting MeCN with DMF as described in Example 5C

reactant | 5-[3-Methoxy-4-(2-trifluoromethyl-phenoxy)-benzylidene]-2-methylsulfanyl-thiazol-4-one | COC=1C=C(C=C2C(N=C(S2)SC)=O)C=CC1OC1=C(C=CC=C1)C(F)(F)F | C19H14F3NO3S2
reactant | azetidine-3-carboxylic acid | N1CC(C1)C(=O)O | C4H7NO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-{5-[3-Methoxy-4-(2-trifluoromethyl-phenoxy)-benzylidene]-4-oxo-4,5-dihydro-thiazol-2-yl}-azetidine-3-carboxylic acid | COC=1C=C(C=C2C(N=C(S2)N2CC(C2)C(=O)O)=O)C=CC1OC1=C(C=CC=C1)C(F)(F)F | C22H17F3N2O5S
